US07723331B2
6-(4-Chlorophenyl)-3-[3-(2-morpholin-4-yl-ethoxy)benzyl]thieno[3,2-d]pyrimidin-4(3H)-one
5-(4-Chlorophenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester (0.164 g, 0.508 mmol), 3-(2-morpholin-4-yl-ethoxy)-benzylamine (0.100 g, 0.423 mmol) and MeOH (1.5 mL) were heated by MW at 120° C. for 15 minutes. The reaction mixture was allowed to cool to r.t., the precipitate filtered, washed with MeOH, and dried in vacuo to give the product. Yield: 0.110 g (45%). 1H NMR (400 MHz, CDCl3) δ 8.11 (s, 1H), 7.63 (d, 2H, J=8.42 Hz), 7.45 (s, 1H), 7.41 (d, 2H, J=8.42 Hz), 7.25 (m, 1H), 6.81-6.94 (m, 3H), 5.17 (s, 2H), 4.06 (t, 2H, J=6.12 Hz), 3.70 (t, 4H, J=4.68 Hz), 2.75 (t, 2H, J=5.58 Hz), 2.53 (t, 4H, J=4.51 Hz). MS (ESI+) 481.92 (M+1H+).

reactant | 5-(4-Chlorophenyl)-3-(dimethylamino-methyleneamino)-thiophene-2-carboxylic acid methyl ester | 0.508 mmol, 0.164 g | COC(=O)C=1SC(=CC1N=CN(C)C)C1=CC=C(C=C1)Cl | C15H15ClN2O2S
reactant | 3-(2-morpholin-4-yl-ethoxy)-benzylamine | 0.423 mmol, 0.100 g | N1(CCOCC1)CCOC=1C=C(CN)C=CC1 | C13H20N2O2
solvent | MeOH | 1.5 mL | CO | CH4O
product | 6-(4-Chlorophenyl)-3-[3-(2-morpholin-4-yl-ethoxy)benzyl]thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)OCCN1CCOCC1 | C25H24ClN3O3S
